US09402841B2
Step B: (S)-3-(1-(pyrrolidin-3-ylamino)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one
To crude (S)-tert-butyl 3-((3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)amino)pyrrolidine-1-carboxylate was added DCM (3 mL) and TFA (1 mL). The mixture was stirred for 1 hour and concentrated. The crude product was purified by preparative HPLC eluting with a gradient of 5-30% ACN in water (acid mode) to give the title compound (8 mg).

reactant | (S)-tert-butyl 3-((3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | O=C1NC(=NN1)C=1N=C(C2=CC=CC=C2C1)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C20H24N6O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(1-(pyrrolidin-3-ylamino)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one | 8 mg | N1C[C@H](CC1)NC1=NC(=CC2=CC=CC=C12)C1=NNC(N1)=O | C15H16N6O
